US06034239
N-[2-(5-bromo-1,2,3,7,8,9-hexahydrocyclopenta[f][1]benzopyran-9-yl)ethyl)propionamide
To a solution of N-[2-(5-bromo-3,7,8,9-tetrahydrocyclopenta[f][1]benzopyran-9-yl)ethyl]propionamide (1.2 g, 3.4 mmol.) in ethanol (10 mL) was added 5% Pd-C (120 mg, 50% hydrous). The mixture was stirred for one hour at room temperature under hydrogen atmosphere. The reaction mixture was subjected to filtration. The filtrate was concentrated under reduced pressure. The concentrate was purified by means of silica gel column chromatography (ethyl acetate) to afford the title compound (yield 327 mg, 27%).

reactant | N-[2-(5-bromo-3,7,8,9-tetrahydrocyclopenta[f][1]benzopyran-9-yl)ethyl]propionamide | 3.4 mmol, 1.2 g | BrC1=CC2=C(C=3C=CCOC31)C(CC2)CCNC(CC)=O | C17H20BrNO2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd-C | 120 mg | [Pd] | Pd
product | N-[2-(5-bromo-1,2,3,7,8,9-hexahydrocyclopenta[f][1]benzopyran-9-yl)ethyl)propionamide | yield 327 mg, 27% | BrC1=CC2=C(C=3CCCOC31)C(CC2)CCNC(CC)=O | C17H22BrNO2
